US06586441B2
2-Amino-4-benzo[1,3]dioxol-5-yl-6-benzylsulfanyl-pyrimidine-5-carbonitrile
From 2-amino-4-benzo[1,3]dioxol-5-yl-6-methanesulfonyl-pyrimidine-5-carbonitrile, benzyl mercaptan and DBU in DME. ES-MS m/e (%): 401 (M+K+, 30), 385 (M+Na+, 24), 363 (M+H+, 100).

reactant | 2-amino-4-benzo[1,3]dioxol-5-yl-6-methanesulfonyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C1=CC2=C(OCO2)C=C1)C#N)S(=O)(=O)C | C13H10N4O4S
reactant | benzyl mercaptan | C(C1=CC=CC=C1)S | C7H8S
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-benzo[1,3]dioxol-5-yl-6-benzylsulfanyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C1=CC2=C(OCO2)C=C1)C#N)SCC1=CC=CC=C1 | C19H14N4O2S
